US03948925
A mixture of 29 g of 4-carboxy-4-thiazoline-2-one [Enlenmeyer et al, Helv., Chim. Acta., Vol. 27 (1944), p.1432-6] and 200 ml of thionyl chloride was refluxed for 24 hours and was then cooled. The mixture was vacuum filtered to obtain 21 g of 4-chloroformyl-4-thiazoline-2-one melting at 184°C.

reactant | 4-carboxy-4-thiazoline-2-one | 29 g | C(=O)(O)C=1NC(SC1)=O | C4H3NO3S
reactant | thionyl chloride | 200 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-chloroformyl-4-thiazoline-2-one | 21 g | ClC(=O)C=1NC(SC1)=O | C4H2ClNO2S
